US04304924
A mixture of 9.45 g (31.4 mmol) of 4-(2-tetrahydropyranyloxyethoxy)bromobenzene, 40 ml of dry tetrahydrofuran (THF) and 0.76 g (31.4 mmol) of magnesium metal is heated to boiling, and after about 15 minutes a spontaneous reaction ensues. The mixture is then maintained, with some external heating, at its boiling point and after 15 minutes 20 ml of THF is added. After an additional 15 minutes at boiling, a final 20 ml of THF is added, and boiling is continued until the total heating time is 2 hours. Most of the magnesium has disappeared at this point. The mixture is then cooled and carbon dioxide gas is introduced, at a slight positive pressure and with vigorous stirring, for 15 minutes. The mixture is filtered and rotoevaporated to remove the solvent. Ethyl acetate (150 ml), water (150 ml) and aqueous 3 N sulfuric acid (20 ml) are added to the residue. The aqueous layer is separated and extracted with ethyl acetate. The combined organic layers are washed with water (100 ml, 2×) and then with saturated aqueous sodium chloride and dried over calcium sulfate. Solvent is removed by rotoevaporation to give 4-(2-tetrahydropyranyloxyethoxy)benzoic acid.

reactant | 4-(2-tetrahydropyranyloxyethoxy)bromobenzene | 31.4 mmol, 9.45 g | O1C(CCCC1)OCCOC1=CC=C(C=C1)Br | C13H17BrO3
reactant | magnesium | 31.4 mmol, 0.76 g | [Mg] | Mg
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | THF | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 4-(2-tetrahydropyranyloxyethoxy)benzoic acid | O1C(CCCC1)OCCOC1=CC=C(C(=O)O)C=C1 | C14H18O5
